US08044213B2
To a mixture of 0.16 g (0.40 mmole) of 4-(4-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.19b), 0.51 g (2.38 mmole) of sodium triacetoxy-borohydride and 15 mL of dichloromethane was added 0.07 mL (0.60 mmole) of 1-methylpiperazine. The mixture was stirred at room temperature for 18 hours. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 0:100-15:85) to give 0.16 g of 4-(4-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide (VI.19c).

reactant | 4-(4-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 0.40 mmole, 0.16 g | ClC1=CC=C(C=C1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-] | C17H11ClN4O4S
reactant | sodium triacetoxy-borohydride | 2.38 mmole, 0.51 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-methylpiperazine | 0.60 mmole, 0.07 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(4-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide | 0.16 g | ClC1=CC=C(C=C1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)CN1CCN(CC1)C)[N+](=O)[O-] | C22H23ClN6O3S
